US04506368
α-isonicotinamido-p-methoxyacetophenone (11.5 g., 0.043 mole) was added portion-wise to a stirred solution of 200 ml of acetic anhydride and 15 ml of 90% phosphoric acid; during the addition an exotherm raised the reaction temperature to 40° C. After the addition was complete the reaction mixture was stirred and refluxed for 2 hours. After cooling, the supernatant liquid was decanted from the viscous precipitate, which was crystallized by titration with 350 ml of 1% aqueous sodium hydroxide. The yellow solid was filtered, washed with distilled water (200 ml), and dried in vacuo yielding 7.76 g. (yield 72%) of 2-(4-pyridyl)-5-p-methoxyphenyloxazole, m.p. 105°-107° C.

reactant | α-isonicotinamido-p-methoxyacetophenone | 0.043 mole, 11.5 g | C(C1=CC=NC=C1)(=O)NCC(=O)C1=CC=C(C=C1)OC | C15H14N2O3
reactant | phosphoric acid | 15 ml | P(O)(O)(O)=O | H3O4P
solvent | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(4-pyridyl)-5-p-methoxyphenyloxazole | yield 72% | N1=CC=C(C=C1)C=1OC(=CN1)C1=CC=C(C=C1)OC | C15H12N2O2
